US04147869
10.7 g of 8-amino-5-hydroxy-3,4-dihydrocarbostyril was dissolved in 100 ml of pyridine, and 10.0 g of cyclohexylcarbonyl chloride was added to the solution while vigorously stirring at room temperature followed by stirring at 50° C. for 30 minutes. The precipitated crystals were recovered by filtration, washed with ethanol, dried and dissolved in 200 ml of a 10% aqueous sodium hydroxide solution. Activated carbon was added to the solution, and the mixture was stirred and filtered. The filtrate was rendered acidic with hydrochloric acid under ice cooling, and the precipitated crystals were recovered by filtration, washed with water and dried. Recrystallization from methanol yielded 6.6 g of 8-cyclohexylcarbonylamino-5-hydroxy-3,4-dihydrocarbostyril as colorless amorphous crystals having a melting point of 304.2°-304.8° C.

reactant | 8-amino-5-hydroxy-3,4-dihydrocarbostyril | 10.7 g | NC=1C=CC(=C2CCC(NC12)=O)O | C9H10N2O2
reactant | cyclohexylcarbonyl chloride | 10.0 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 8-cyclohexylcarbonylamino-5-hydroxy-3,4-dihydrocarbostyril | 6.6 g | C1(CCCCC1)C(=O)NC=1C=CC(=C2CCC(NC12)=O)O | C16H20N2O3
